US06831175B2
2-(5-Bromo-pyridin-3-yloxy)-3-(1H-indol-3-yl)-propionic acid methyl ester
A 100 mL RBF was charged with 3-bromo-5-hydroxypyridine (1.67 g, 9.58 mmol), 2-hydroxy-3-(1H-indol-3-yl)-propionic acid methyl ester (2.1 g, 9.58 mmol) which was synthesized according to literature method (M. E. Jung et al J. Org. Chem. 1999, 64, 2976) and Ph3P (3.01 g, 11.5 mmol), and was purged with nitrogen. THF (40 mL) was added at 0° C. After stirring at 0° C. for 10 min, DEAD (1.81 mL, 11.5 mmol) was added via syringe. The reaction mixture was stirred at 0° C. for 1 h and at rt overnight. The reaction mixture was concentrated and the residue was separated by flash chromatography (20-60% EtOAc in hexane) to provide the desired product (3.4 g, 94%). MS (DCI) m/z 375, 377 (M+1)+.

reactant | 3-bromo-5-hydroxypyridine | 9.58 mmol, 1.67 g | BrC=1C=NC=C(C1)O | C5H4BrNO
reactant | 2-hydroxy-3-(1H-indol-3-yl)-propionic acid methyl ester | 9.58 mmol, 2.1 g | COC(C(CC1=CNC2=CC=CC=C12)O)=O | C12H13NO3
reactant | Ph3P | 11.5 mmol, 3.01 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 11.5 mmol, 1.81 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 2-(5-Bromo-pyridin-3-yloxy)-3-(1H-indol-3-yl)-propionic acid methyl ester | 3.4 g, 94% | COC(C(CC1=CNC2=CC=CC=C12)OC=1C=NC=C(C1)Br)=O | C17H15BrN2O3
